### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/ModelCategory): relation between left and right homotopies

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we relate left and right homotopy between morphisms `X ⟶ Y` in model categories. In particular, if `X` is cofibrant and `Y` is fibrant, these notions coincide (for arbitrary choices of good cylinders or good path objects).

Using the factorization lemma by K. S. Brown, we deduce versions of the Whitehead theorem which assert that when both `X` and `Y` are fibrant and cofibrant, then any weak equivalence `X ⟶ Y` is a homotopy equivalence.

---

- [x] depends on: #26967
- [x] depends on: #28354
- [x] depends on: #26960

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+
+/-!
+# Homotopies in model categories
+
+In this file, we relate left and right homotopy between
+morphisms `X ⟶ Y` in model categories. In particular, if `X` is cofibrant
+and `Y` is fibrant, these notions coincide (for arbitrary choices of good
+cylinders or good path objects).
+
+Using the lemma by K. S. Brown, we deduce versions of the Whitehead
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
Using the factorization lemma by K. S. Brown, we deduce versions of the Whitehead
```

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+    h := P.i₁ ≫ sq.lift
+    h₀ := by
+      have := sq.fac_right =≫ prod.fst
+      rw [Category.assoc, Q.p_fst, prod.lift_fst] at this
+      simp [this]
+    h₁ := by
+      have := sq.fac_right =≫ prod.snd
+      rw [Category.assoc, Q.p_snd, prod.lift_snd] at this
+      simp [this]
+  }⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
    Q.RightHomotopy f g :=
  let P := h.exists_good_cylinder.choose
  have h := h.exists_good_cylinder.choose_spec.2.some
  have h' := h.exists_good_cylinder.choose_spec.1
  have sq : CommSq (f ≫ Q.ι) P.i₀ Q.p (prod.lift (P.π ≫ f) h.h) := { }
  { h := P.i₁ ≫ sq.lift
    h₀ := by
      have := sq.fac_right =≫ prod.fst
      rw [Category.assoc, Q.p_fst, prod.lift_fst] at this
      simp [this]
    h₁ := by
      have := sq.fac_right =≫ prod.snd
      rw [Category.assoc, Q.p_snd, prod.lift_snd] at this
      simp [this] }
```

If you want, this is possible. This avoids the weird dance of wrapping everything in a `Nonempty.some` only to call obtain and then give an explicitly constructed term anyway. This also allows to avoid the dreaded `⟨{` that forces you to orphan the delimiters to have an even number of spaces before the structure fields.

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 3]
```diff
@@ -0,0 +1,241 @@
...
+    h := sq.lift ≫ P.p₁
+    h₀ := by
+      have := coprod.inl ≫= sq.fac_left
+      rw [Q.inl_i_assoc, coprod.inl_desc] at this
+      simp [reassoc_of% this]
+    h₁ := by
+      have := coprod.inr ≫= sq.fac_left
+      rw [Q.inr_i_assoc, coprod.inr_desc] at this
+      simp [reassoc_of% this]
+  }⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
    Q.LeftHomotopy f g :=
  let P := h.exists_good_pathObject.choose
  have h := h.exists_good_pathObject.choose_spec.2.some
  have h' := h.exists_good_pathObject.choose_spec.1
  have sq : CommSq (coprod.desc (f ≫ P.ι) h.h) Q.i P.p₀ (Q.π ≫ f) := { }
  { h := sq.lift ≫ P.p₁
    h₀ := by
      have := coprod.inl ≫= sq.fac_left
      rw [Q.inl_i_assoc, coprod.inl_desc] at this
      simp [reassoc_of% this]
    h₁ := by
      have := coprod.inr ≫= sq.fac_left
      rw [Q.inr_i_assoc, coprod.inr_desc] at this
      simp [reassoc_of% this, P] }
```

Same as above if you want.

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 4]
```diff
@@ -0,0 +1,241 @@
...
+    rw [mk_eq_mk_iff]
+    exact ⟨P, ⟨{
+      h := sq.lift
+      h₀ := by
+        have := coprod.inl ≫= sq.fac_left
+        rwa [P.inl_i_assoc, coprod.inl_desc] at this
+      h₁ := by
+        have := coprod.inr ≫= sq.fac_left
+        rwa [P.inr_i_assoc, coprod.inr_desc] at this
+    }⟩⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
      ⟨{h := sq.lift
        h₀ := by
          have := coprod.inl ≫= sq.fac_left
          rwa [P.inl_i_assoc, coprod.inl_desc] at this
        h₁ := by
          have := coprod.inr ≫= sq.fac_left
          rwa [P.inr_i_assoc, coprod.inr_desc] at this }⟩⟩
```

this `⟨{h` is unfortunate, but I think it’s better than orphaned delimiters.

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 5]
```diff
@@ -0,0 +1,241 @@
...
+lemma leftHomotopyRel_iff_rightHomotopyRel {X Y : C} (f g : X ⟶ Y)
+    [IsCofibrant X] [IsFibrant Y] :
+    LeftHomotopyRel f g ↔ RightHomotopyRel f g :=
+  ⟨fun h ↦ h.rightHomotopyRel, fun h ↦ h.leftHomotopyRel⟩
+
+namespace LeftHomotopyClass
+
+variable (X)
+
+lemma bijective_postcomp_of_fibration_of_weakEquivalence
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
lemma postcomp_bijective_of_fibration_of_weakEquivalence
```

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 6]
```diff
@@ -0,0 +1,241 @@
...
+      h₁ := by
+        have := coprod.inr ≫= sq.fac_left
+        rwa [P.inr_i_assoc, coprod.inr_desc] at this
+    }⟩⟩
+  · intro φ
+    obtain ⟨φ, rfl⟩ := φ.mk_surjective
+    have sq : CommSq (initial.to Y) (initial.to X) g φ := { }
+    exact ⟨mk sq.lift, by simp⟩
+
+lemma bijective_postcomp_of_weakEquivalence
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
lemma postcomp_bijective_of_weakEquivalence
```

Some lemmas below need to be fixed after the remame.

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 7]
```diff
@@ -0,0 +1,241 @@
...
+  obtain ⟨φ, rfl⟩ := φ.mk_surjective
+  simp
+
+end LeftHomotopyClass
+
+namespace RightHomotopyClass
+
+variable (Z)
+
+lemma bijective_precomp_of_cofibration_of_weakEquivalence
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
lemma precomp_bijective_of_cofibration_of_weakEquivalence
```

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 8]
```diff
@@ -0,0 +1,241 @@
...
+      h₁ := by
+        have := sq.fac_right =≫ prod.snd
+        rwa [Category.assoc, P.p_snd, prod.lift_snd] at this
+    }⟩⟩
+  · intro φ
+    obtain ⟨φ, rfl⟩ := φ.mk_surjective
+    have sq : CommSq φ f (terminal.from _) (terminal.from _) := { }
+    exact ⟨mk sq.lift, by simp⟩
+
+lemma bijective_precomp_of_weakEquivalence
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
lemma precomp_bijective_of_weakEquivalence
```

File: Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean [hunk 9]
```diff
@@ -0,0 +1,237 @@
...
+Authors: Joël Riou
+-/
+import Mathlib.AlgebraicTopology.ModelCategory.BrownLemma
+import Mathlib.AlgebraicTopology.ModelCategory.LeftHomotopy
+import Mathlib.AlgebraicTopology.ModelCategory.RightHomotopy
+
+/-!
+# Homotopies in model categories
+
+In this file, we relate left and right homotopy between
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/Homotopy.lean]:
```suggestion
In this file, we relate left and right homotopies between
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by kim-em** [comment]
bors merge

**Comment by robin-carlier** [comment]
@kim-em This was a delegate so that the typo in the docstring could be fixed before merging.

**Comment by riccardobrasca** [comment]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by kim-em** [comment]
> @kim-em This was a delegate so that the typo in the docstring could be fixed before merging.

Thanks for catching. I guess I need to read the both messages on zulip more carefully.
